US04219559
A mixture of 2.1 parts of 2-(ethenyl)pyridine, 3.25 parts of 1-[(4-fluorophenyl)methyl]-N-(4-piperidinyl)-1H-benzimidazol-2-amine and 80 parts of 1-butanol is stirred and refluxed overnight. The reaction mixture is evaporated. The residue is purified by column-chromatography over silica gel using a mixture of trichloromethane and methanol (97:3 by volume) as eluent. The pure fractions are collected and the eluent is evaporated. The residue is crystallized from 2,2'-oxybispropane, yielding 1 part (23%) of 1-[(4-fluorophenyl)methyl]-N-{1-[2-(2-pyridinyl)ethyl]-4-piperidinyl}-1H-benzimidazol-2-amine; mp. 133.4° C.

reactant | 2-(ethenyl)pyridine | C(=C)C1=NC=CC=C1 | C7H7N
reactant | 1-[(4-fluorophenyl)methyl]-N-(4-piperidinyl)-1H-benzimidazol-2-amine | FC1=CC=C(C=C1)CN1C(=NC2=C1C=CC=C2)NC2CCNCC2 | C19H21FN4
solvent | 1-butanol | C(CCC)O | C4H10O
product | 1-[(4-fluorophenyl)methyl]-N-{1-[2-(2-pyridinyl)ethyl]-4-piperidinyl}-1H-benzimidazol-2-amine | 23% | FC1=CC=C(C=C1)CN1C(=NC2=C1C=CC=C2)NC2CCN(CC2)CCC2=NC=CC=C2 | C26H28FN5
